US04419121
Example 3: 2-Methoxyethylthio-phenylsulfonamide
3.6 of 2-methoxyethyl-mercaptan is added dropwise to a mixture of 3.5 g of 55% sodium hydride and 80 ml of dimethylformamide. To this mixture 8.0 of 2-fluorophenylsulfonamide are added. The reaction mixture is stirred for 3 hours at a temperatur of 115°-120° C. After cooling the mixture is poured into water. To this mixture 10% of hydrochlorid acid are added, and the product is extracted with ethyl acetate. The organic phase is evaporated and the residue is purified by chromatography. Yield: 6.7 g of 2-methoxyethylthio-phenylsulfonamide, m.p. 119°-121° C.

reactant | 2-methoxyethyl-mercaptan | COCCS | C3H8OS
reactant | sodium hydride | 3.5 g | [H-].[Na+]
reactant | 2-fluorophenylsulfonamide | FC1=C(C=CC=C1)S(=O)(=O)N | C6H6FNO2S
reactant | hydrochlorid | Cl | ClH
solvent | water | O | H2O
solvent | dimethylformamide | 80 ml | CN(C=O)C | C3H7NO
product | 2-Methoxyethylthio-phenylsulfonamide | COCCSNS(=O)(=O)C1=CC=CC=C1 | C9H13NO3S2
